US08541596B2
N-(2,3,5,6-Tetrafluoro-4-methylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 2,3,5,6-tetrafluoro-4-methylbenzylbromide (566 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5. Yield: 0.034 g (11.0%); MS m/z: 310.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 2.20 (t, 3H, 3J(H,F)=1.9 Hz); 4.35 (d, 2H); 5.85 (br s, 1H); 6.60 (dd, 1H, 4J=1.8 Hz, 3J=8.5 Hz); 6.69 (br s, 1H); 7.28 (d, 1H, 3J=8.5 Hz); 7.87 (s, 1H); 11.95 (br s, 1H); HPLC (METHOD [A]): rt 13.04 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 2,3,5,6-tetrafluoro-4-methylbenzylbromide | 2.2 mmol, 566 mg, 2.2 eq. | FC1=C(CBr)C(=C(C(=C1F)C)F)F | C8H5BrF4
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(2,3,5,6-Tetrafluoro-4-methylbenzyl)-1H-benzo[d]imidazol-5-amine | FC1=C(CNC2=CC3=C(NC=N3)C=C2)C(=C(C(=C1F)C)F)F | C15H11F4N3
